US07750145B2
To a solution of 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-7-methyl-1H-indole (0.28 g) in N,N-dimethyl-formamide (4 mL) was added 55% sodium hydride (22 mg) under ice-cooling, and the mixture was stirred at the same temperature for 15 minutes. To this mixture was added methyl 4-(bromo-methyl)benzoate (0.12 g) at the same temperature, and the mixture was stirred at the same temperature for 15 minutes, and stirred at room temperature for 1 hour. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1-3/1) to give 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1-[4-(methoxycarbonyl)benzyl]-7-methyl-1H-indole (0.32 g). This material was dissolved in a mixed solvent of ethanol (5 mL) and tetra hydrofuran (2.5 mL). To the solution was added potassium hydroxide (0.45 g), and the mixture was stirred at 50° C. overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid (10 mL), and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound (0.31 g)

reactant | 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-7-methyl-1H-indole | 0.28 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CNC2=C(C=CC=C12)C | C43H43NO5
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | methyl 4-(bromo-methyl)benzoate | 0.12 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | N,N-dimethyl-formamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1-[4-(methoxycarbonyl)benzyl]-7-methyl-1H-indole | 0.32 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CN(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)C(=O)OC | C52H51NO7
